US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[4-((R)-3-hydroxy-pyrrolidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one was condensed with 4-((R)-3-hydroxy-pyrrolidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde in ethanol and piperidine to give the titled compound as a yellow solid.

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 4-((R)-3-hydroxy-pyrrolidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | O[C@H]1CN(CC1)CC=1C(=C(NC1C)C=O)C | C12H18N2O2
solvent | ethanol | C(C)O | C2H6O
solvent | piperidine | N1CCCCC1 | C5H11N
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[4-((R)-3-hydroxy-pyrrolidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CN1C[C@@H](CC1)O)C | C27H27Cl2N3O4S
